US05527819
Step A: N-Methoxy-N-methyl-5-chloro-3-phenylthioindole-2-carboxamide
The title compound was prepared from 5-chloro-3-phenylthioindole-2-carboxylic acid (1.0 g, 3.30 mmol)) N,O-dimethylhydroxylamine hydrochloride (0.64 g, 6.6 mmol), triethylamine (1.0 mL, 7 mmol) and benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorphosphate (1.64 g, 3.6 mmol) in dimethylformamide according to the general procedure described in Example 1 for the preparation of N-(3-pyridylmethyl)-5-chloro-3-phenylthio-2-carboxamide.

reactant | 5-chloro-3-phenylthioindole-2-carboxylic acid | 3.30 mmol, 1.0 g | ClC=1C=C2C(=C(NC2=CC1)C(=S)O)C1=CC=CC=C1 | C15H10ClNOS
reactant | N,O-dimethylhydroxylamine hydrochloride | 6.6 mmol, 0.64 g | Cl.CNOC
reactant | triethylamine | 7 mmol, 1.0 mL | C(C)N(CC)CC | C6H15N
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorphosphate | 3.6 mmol, 1.64 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N-Methoxy-N-methyl-5-chloro-3-phenylthioindole-2-carboxamide | CON(C(=S)C=1NC2=CC=C(C=C2C1C1=CC=CC=C1)Cl)C | C17H15ClN2OS
